US08957074B2
Following amide formation method 1, 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (75 mg, 0.178 mmol, 1.0 eq) was combined with tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate (37.7 mg, 0.18 mmol, 1.0 eq) to give tert-butyl 3-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate as a white solid (80 mg, 0.130 mmol, 73% yield). 1H NMR (400 MHz, chloroform-d) δ ppm 8.76 (s, 1H) 8.68 (d, J=8.59 Hz, 1H) 8.42-8.57 (m, 1H) 8.40 (d, J=2.02 Hz, 1H) 7.83 (dd, J=8.59, 2.02 Hz, 1H) 6.49 (s, 1H) 4.46-4.62 (m, 2H) 4.29 (br s, 2H) 3.19 (s, 6H) 2.56-2.73 (m, 2H) 1.84-2.12 (m, 8H) 1.65-1.84 (m, 6H) 1.54-1.65 (m, 3H) 1.52 (s, 9H); MS (m/z, MH+): 617.7.

reactant | 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.178 mmol, 75 mg, 1.0 eq | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
reactant | tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 0.18 mmol, 37.7 mg, 1.0 eq | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
product | tert-butyl 3-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 0.130 mmol, 80 mg, 73% yield | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)N1CC3CCC(C1)N3C(=O)OC(C)(C)C)C=C2)C(N(C)C)=O | C33H44N8O4
